US05486529
To a 5 liter, 3-necked flask equipped with a mechanical stirrer, thermometer, reflux condenser capped with a nitrogen inlet, and a heating mantle were added o-chloroacetophenone (305.8 g), N,N-dimethylformamide dimethyl acetal (707.0 g), and acetonitrile (dried over molecular sieves, 3.0 L) giving an orange solution. The mixture was heated gradually to reflux (83° C.) over 1.5 hours, then maintained at reflux for 18 hours. After the dark red solution was cooled to room temperature, the acetonitrile was evaporated, leaving a heavy red oil. The oil was redissolved in toluene (1L). The toluene was evaporated to afford the crude enamine which was further dried under high vacuum overnight to afford 2'-chloro-3-dimethylaminopropenophenone (422 g) which was used without further purification.

reactant | o-chloroacetophenone | 305.8 g | ClC1=C(C=CC=C1)C(C)=O | C8H7ClO
reactant | N,N-dimethylformamide dimethyl acetal | 707.0 g | COC(N(C)C)OC | C5H13NO2
reactant | acetonitrile | 3.0 L | C(C)#N | C2H3N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2'-chloro-3-dimethylaminopropenophenone | 422 g | ClC1=C(C=CC=C1)C(C=CN(C)C)=O | C11H12ClNO
